### PR TITLE
[Merged by Bors] - chore(Data/Tree/Basic): Rename Tree to BinaryTree

### PR DESCRIPTION
**Pull request by sorrachai**
Rename `Tree` to `BinaryTree`.

This frees up the name `Tree` to cover n-ary trees in future.

We only deprecate the `def`s, and move the theorems without deprecation.

### CODE REVIEW

File: Mathlib/Data/Tree/Basic.lean [hunk 1]
```diff
@@ -28,108 +28,111 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
 /-- A binary tree with values stored in non-leaf nodes. -/
-inductive Tree.{u} (α : Type u) : Type u
-  | nil : Tree α
-  | node (value : α) (left : Tree α) (right : Tree α) : Tree α
+inductive BinaryTree.{u} (α : Type u) : Type u
+  | nil : BinaryTree α
+  | node (value : α) (left : BinaryTree α) (right : BinaryTree α) : BinaryTree α
   deriving DecidableEq, Repr
-compile_inductive% Tree
+compile_inductive% BinaryTree
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean:37]: Please add a deprecated alias for the type and the two constructors here

File: Mathlib/Data/Tree/Basic.lean [hunk 2]
```diff
@@ -28,108 +28,111 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
+: BinaryTree α → m (BinaryTree β)
   | .nil => pure nil
   | .node a l r => .node <$> f a <*> traverse f l <*> traverse f r
 
-/-- Apply a function to each value in the tree.  This is the `map` function for the `Tree` functor.
+/-- Apply a function to each value in the BinaryTree.
+This is the `map` function for the `BinaryTree` functor.
 -/
-def map {β} (f : α → β) : Tree α → Tree β
+def map {β} (f : α → β) : BinaryTree α → BinaryTree β
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean:83]: Could you add a deprecated alias for each `def` too?

Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:83]: Do you refer to every def in every file?

Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:83]: done

File: Mathlib/Data/Tree/Basic.lean [hunk 3]
```diff
@@ -28,108 +28,151 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
 -/
-def traverse {m : Type* → Type*} [Applicative m] {α β} (f : α → m β) : Tree α → m (Tree β)
+def traverse {m : Type* → Type*} [Applicative m] {α β} (f : α → m β)
+: BinaryTree α → m (BinaryTree β)
   | .nil => pure nil
   | .node a l r => .node <$> f a <*> traverse f l <*> traverse f r
 
-/-- Apply a function to each value in the tree.  This is the `map` function for the `Tree` functor.
+@[deprecated BinaryTree.traverse (since := "2026-05-22")]
+abbrev Tree.traverse {m : Type* → Type*} [Applicative m] {α β} (f : α → m β)
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion
abbrev _root_.Tree.traverse {m : Type* → Type*} [Applicative m] {α β} (f : α → m β)
```
to prevent this being called `BinaryTree.Tree` etc

File: Mathlib/Data/Tree/Basic.lean [hunk 4]
```diff
@@ -28,108 +28,151 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
+@[deprecated BinaryTree (since := "2026-05-22")]
+abbrev Tree.{u} (α : Type u) : Type u := BinaryTree α
+
+@[deprecated BinaryTree.nil (since := "2026-05-22")]
+abbrev Tree.leaf.{u} {α : Type u} : BinaryTree α := BinaryTree.nil
+
+@[deprecated BinaryTree.node (since := "2026-05-22")]
+abbrev Tree.node.{u} {α : Type u} (value : α) (left : BinaryTree α) (right : BinaryTree α)
+: BinaryTree α :=
+  BinaryTree.node value left right
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion
abbrev Tree.leaf.{u} {α : Type u} : Tree α := BinaryTree.nil

@[deprecated BinaryTree.node (since := "2026-05-22")]
abbrev Tree.node.{u} {α : Type u} (value : α) (left : Tree α) (right : Tree α)
: Tree α :=
  BinaryTree.node value left right
```

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean]: Similarly for the other deprecations

File: Mathlib/Data/Tree/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean:83]: Every def in the `Tree` namespace.

File: Mathlib/Data/Tree/Basic.lean [hunk 5]
```diff
@@ -9,14 +9,14 @@ public import Mathlib.Data.Nat.Notation
 public import Mathlib.Util.CompileInductive
 
 /-!
-# Binary tree
+# BinaryTree
 
-Provides binary tree storage for values of any type, with O(lg n) retrieval.
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean:14]: Isn't this still true? `indexOf` is defined in a later file, but is defined.

File: Mathlib/Data/Tree/Basic.lean [hunk 6]
```diff
@@ -9,14 +9,14 @@ public import Mathlib.Data.Nat.Notation
 public import Mathlib.Util.CompileInductive
 
 /-!
-# Binary tree
+# BinaryTree
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]: Usually we keep titles as english rather than Lean

File: Mathlib/Data/Tree/Get.lean [hunk 7]
```diff
@@ -22,15 +22,15 @@ These definitions were moved from the main file to avoid a dependency on `Num`.
 
 @[expose] public section
 
-namespace Tree
+namespace BinaryTree
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Get.lean:25]: The ones in this namespace should have deprecated versions too

File: Mathlib/Data/Tree/Basic.lean (hunk 5 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:14]: Yes, it is defined. But its cost should be at most the tree's height. I don't see a proof of O(log n) depth anywhere.

Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:14]: Side comment: 

The definition of indexOf requires the tree to be a BST. Otherwise, you will get the wrong answer. I think it is unsafe to let the user figure out the precondition in the comment(!). We should design a library so that the users do not need to worry about this. (That's why I prefer to have a bundle of BST.) Happy to create a discussion thread in Zulip if needed.

/-- Finds the index of an element in the tree assuming the tree has been
constructed according to the provided decidable order on its elements.
If it hasn't, the result will be incorrect. If it has, but the element
is not in the tree, returns none. -/
def indexOf (lt : α → α → Prop) [DecidableRel lt] (x : α) : BinaryTree α → Option PosNum
  | nil => none
  | node a t₁ t₂ =>
    match cmpUsing lt x a with
    | Ordering.lt => PosNum.bit0 <$> indexOf lt x t₁
    | Ordering.eq => some PosNum.one
    | Ordering.gt => PosNum.bit1 <$> indexOf lt x t₂

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean:14]: > I don't see a proof of O(log n) depth anywhere.

Lean is full of functions that state their complexity in a docstring without proof. Let's leave this in the docstring, it's not like we claim that the bound has been proven.

File: Mathlib/Data/Tree/Get.lean (hunk 7 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Get.lean:25]: Yes, done.

File: Mathlib/Data/Tree/Basic.lean (hunk 6 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean]: fixed

File: Mathlib/Data/Tree/Basic.lean (hunk 5 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:14]: But the docstring is misleading (and wrong).  Why do we confuse the users?

Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:14]: I am referring to the comment `with O(lg n) retrieval.`

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean:14]: Let me make a simpler claim then: this PR is about renaming things, and I am happy to approve and merge those changes once the deprecations look good.

If you feel strongly about this docstring, please delete it in a separate PR, for which you should find a different reviewer.

File: Mathlib/Data/Tree/Basic.lean [hunk 8]
```diff
@@ -28,108 +28,151 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
 
 universe u
 
 variable {α : Type u}
 
-instance : Inhabited (Tree α) :=
+instance : Inhabited (BinaryTree α) :=
   ⟨nil⟩
 
+
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion
```

File: Mathlib/Data/Tree/Basic.lean [hunk 9]
```diff
@@ -28,108 +28,151 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
 
 /-- The number of internal nodes (i.e. not including leaves) of a binary tree -/
 @[simp]
-def numNodes : Tree α → ℕ
+def numNodes : BinaryTree α → ℕ
   | nil => 0
   | node _ a b => a.numNodes + b.numNodes + 1
 
+@[deprecated BinaryTree.numNodes (since := "2026-05-22")]
+abbrev Tree.numNodes {α} (t : Tree α) : ℕ := BinaryTree.numNodes t
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion
abbrev _root_.Tree.numNodes {α} (t : Tree α) : ℕ := BinaryTree.numNodes t
```
and throughout

File: Mathlib/Data/Tree/Basic.lean (hunk 5 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:14]: Sure, I will PR about it later then.

File: Mathlib/Data/Tree/Get.lean [hunk 10]
```diff
@@ -20,38 +20,62 @@ These definitions were moved from the main file to avoid a dependency on `Num`.
...
 
+/-- Finds the index of an element in the tree assuming the tree has been
+constructed according to the provided decidable order on its elements.
+If it hasn't, the result will be incorrect. If it has, but the element
+is not in the tree, returns none. -/
+@[deprecated BinaryTree.indexOf (since := "2026-05-22")]
+abbrev _root_.Tree.indexOf (lt : α → α → Prop) [DecidableRel lt] (x : α) : Tree α → Option PosNum :=
+  BinaryTree.indexOf lt x
+
+
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Get.lean]:
```suggestion
```

**Review by eric-wieser — APPROVED** [review]
Thanks!

In theory I think we should also deprecate all the theorems, but it seems very unlikely to actually matters, so I'm inclined to save you the work. If we go ahead with that plan, please mention their deliberate omission in the PR description.

Let's see if @b-mehta agrees.

File: Mathlib/Data/Tree/Basic.lean [hunk 11]
```diff
@@ -15,121 +15,180 @@ Provides binary tree storage for values of any type, with O(lg n) retrieval.
...
+We also specialize for `BinaryTree Unit`, which is a binary tree without any
+additional data. We provide the notation `a △ b` for making a `BinaryTree Unit` with children
 `a` and `b`.
 
 ## References
 
 <https://leanprover-community.github.io/archive/stream/113488-general/topic/tactic.20question.html>
 -/
 
-@[expose] public section
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean:27]: Removing this seems out of scope for this PR.

File: Mathlib/Data/Tree/Basic.lean [hunk 12]
```diff
@@ -15,121 +15,180 @@ Provides binary tree storage for values of any type, with O(lg n) retrieval.
...
+public section
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion
@[expose] public section
```

File: Mathlib/Data/Tree/Basic.lean (hunk 11 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:27]: When I put it back, the check [fails]([continuous integration (mathlib forks) / ci (fork) / Build (pull_request_target)](https://github.com/leanprover-community/mathlib4/actions/runs/26311117184/job/77460005613?pr=39707))

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean:27]: You should fix that by disabling the deprecation warning linter in the places where it fires.

File: Mathlib/Data/Tree/Basic.lean (hunk 12 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean]: Do you know why @[expose] causes a CI error? It was fine when I removed them.

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean]: https://github.com/leanprover-community/mathlib4/pull/39707#discussion_r3291618926

File: Mathlib/Data/Tree/Basic.lean (hunk 11 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean:27]: done

File: Mathlib/Data/Tree/Basic.lean [hunk 13]
```diff
@@ -28,108 +28,176 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
+@[deprecated BinaryTree (since := "2026-05-22")]
+abbrev Tree.{u} (α : Type u) : Type u := BinaryTree α
+
+set_option linter.deprecated false in
+/-- Tree.nil -/
+@[deprecated BinaryTree.nil (since := "2026-05-22")]
+abbrev Tree.nil.{u} {α : Type u} : Tree α := BinaryTree.nil
+set_option linter.deprecated false in
+
+/-- Tree.node -/
```
Comment (b-mehta) [inline Mathlib/Data/Tree/Basic.lean]:
```suggestion

set_option linter.deprecated false in
/-- Tree.node -/
```

File: Mathlib/Data/Tree/Basic.lean [hunk 14]
```diff
@@ -28,108 +28,176 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
+theorem comp_map {β γ : Type*} (f : α → β) (g : β → γ) (t : BinaryTree α) :
     t.map (g ∘ f) = (t.map f).map g := by
   induction t with
   | nil => rw [map, map, map]
   | node v l r hl hr => rw [map, map, map, hl, hr, Function.comp_apply]
 
-theorem traverse_pure (t : Tree α) {m : Type u → Type*} [Applicative m] [LawfulApplicative m] :
-    t.traverse (pure : α → m α) = pure t := by
+theorem traverse_pure (t : BinaryTree α) {m : Type u → Type*} [Applicative m] [LawfulApplicative m]
+: t.traverse (pure : α → m α) = pure t := by
```
Comment (b-mehta) [inline Mathlib/Data/Tree/Basic.lean]: The formatting here is off

**Review by b-mehta — COMMENTED** [review]
Minor comments only, otherwise I agree with Eric's judgement here.

File: Mathlib/Data/Tree/Basic.lean (hunk 14 above)
Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean]: Does this fix the formatting issue?

Comment (sorrachai) [reply Mathlib/Data/Tree/Basic.lean]: (please see the new update version)

File: Mathlib/Data/Tree/Basic.lean [hunk 15]
```diff
@@ -28,48 +28,84 @@ additional data. We provide the notation `a △ b` for making a `Tree Unit` with
...
+/-- Tree.nil -/
+@[deprecated BinaryTree.nil (since := "2026-05-22")]
+abbrev Tree.nil.{u} {α : Type u} : Tree α := BinaryTree.nil
+
+set_option linter.deprecated false in
+/-- Tree.node -/
+@[deprecated BinaryTree.node (since := "2026-05-22")]
+abbrev Tree.node.{u} {α : Type u} (value : α) (left : Tree α) (right : Tree α)
+: Tree α :=
+  BinaryTree.node value left right
```
Comment (eric-wieser) [inline Mathlib/Data/Tree/Basic.lean]: Let's match what `alias` would have generated:
```suggestion
/-- **Alias** of `BinaryTree`. -/
@[deprecated BinaryTree (since := "2026-05-22")]
abbrev Tree.{u} (α : Type u) : Type u := BinaryTree α

set_option linter.deprecated false in
/-- **Alias** of `BinaryTree.nil`. -/
@[deprecated BinaryTree.nil (since := "2026-05-22")]
abbrev Tree.nil.{u} {α : Type u} : Tree α := BinaryTree.nil

set_option linter.deprecated false in
/-- **Alias** of `BinaryTree.node`. -/
@[deprecated BinaryTree.node (since := "2026-05-22")]
abbrev Tree.node.{u} {α : Type u} (value : α) (left : Tree α) (right : Tree α)
: Tree α :=
  BinaryTree.node value left right
```

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean]: And throughout

Comment (eric-wieser) [reply Mathlib/Data/Tree/Basic.lean]: (done)

**Comment by sorrachai** [comment]
Should I change anything?

File: Mathlib/Combinatorics/Enumerative/Catalan/Tree.lean [hunk 16]
```diff
@@ -45,6 +45,12 @@ def treesOfNumNodesEq : ℕ → Finset (Tree Unit)
     · simp_wf; have := fst_le ijh.2; lia
     · simp_wf; have := snd_le ijh.2; lia
 
+set_option linter.deprecated false in
+/-- **Alias** of `BinaryTree.treesOfNumNodesEq`. -/
+@[deprecated BinaryTree.getOrElse (since := "2026-06-07")]
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/Catalan/Tree.lean]:
```suggestion
@[deprecated BinaryTree.treesOfNumNodesEq (since := "2026-06-07")]
```

**Comment by eric-wieser** [comment]
bors merge

Thanks!

**Comment by eric-wieser** [comment]
bors merge
